US07465815B2
2-(3,4,5-Trimethylphenoxy)-1-(4-isopropylphenyl)ethanone
2-Bromo-1-(4-isopropylphenyl)ethanone obtained in Reference Example 164 (20 g, 82.9 mmol) and 3,4,5-trimethylphenol (10.3 g, 75.4 mmol) were added to a solution of potassium carbonate (12.5 g, 90.5 mmol) in acetonitrile solution (200 mL), and mixture was stirred with heating under reflux for 6 hours. The reaction solution was ice-cooled, was poured into cold water, which was extracted with ethyl acetate. The extract was washed with a saturated brine, and then was dried over sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10). The obtained oily matter was crystallized from hexane-ethyl acetate to obtain 21.5 g (yield 96%) of the title compound. Melting point: 96-98° C.

reactant | 2-Bromo-1-(4-isopropylphenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)C(C)C | C11H13BrO
reactant | 3,4,5-trimethylphenol | 75.4 mmol, 10.3 g | CC=1C=C(C=C(C1C)C)O | C9H12O
reactant | potassium carbonate | 90.5 mmol, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(3,4,5-Trimethylphenoxy)-1-(4-isopropylphenyl)ethanone | 21.5 g, yield 96% | CC=1C=C(OCC(=O)C2=CC=C(C=C2)C(C)C)C=C(C1C)C | C20H24O2
